US04284779
By substituting 1-methyl-3-methylene-2-pyrrolidinone [J. Org. Chem., 39, 893 (1974)] for the 3-methylene-2-piperidone in the procedure of Example 9, 2-methylene-4-methylaminobutanoic acid hydrochloric is obtained.

reactant | 1-methyl-3-methylene-2-pyrrolidinone | CN1C(C(CC1)=C)=O | C6H9NO
reactant | 3-methylene-2-piperidone | C=C1C(NCCC1)=O | C6H9NO
product | 2-methylene-4-methylaminobutanoic acid | C=C(C(=O)O)CCNC | C6H11NO2
